US09163011B2
e) (S)-2-Methyl-propane-2-sulfinic acid [(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-hydroxy-1-(2-methoxy-ethyl)-propyl]-amide
To a solution of (R)-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-3-((S)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester (2.4 g, 4.90 mmol) in THF (38 ml) was added lithiumborohydride (214 mg, 9.81 mmol) in 2 portions. The slightly exothermic reaction was stirred for 6 hours at room temperature. Crushed ice was added carefully and the reaction mixture was diluted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate, filtered and evaporated. The crude yellowish resin (2.05 g) was chromatographed over silica gel (Redisep column 40 g, cyclohexane/ethyl acetate 4:6) to give the title compound as a colourless resin. 1.50 g (68.4% yield).

reactant | (R)-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-3-((S)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester | 4.90 mmol, 2.4 g | C(C)OC(C([C@](CCOC)(N[S@@](=O)C(C)(C)C)C1=NC(=CC=C1F)Br)(F)F)=O | C17H24BrF3N2O4S
reactant | lithiumborohydride | 9.81 mmol, 214 mg | [BH4-].[Li+]
solvent | THF | 38 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-Methyl-propane-2-sulfinic acid [(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-hydroxy-1-(2-methoxy-ethyl)-propyl]-amide | 68.4% yield | BrC1=CC=C(C(=N1)[C@@](C(CO)(F)F)(CCOC)N[S@@](=O)C(C)(C)C)F | C15H22BrF3N2O3S
